US07173040B2
A mixture of (±)-6-[[4-(chloromethyl)phenyl]hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone (0.0002 mol), obtained in Example B14, and EtONa/EtOH (0.0005 mol) in ethanol (1 ml) was stirred at room temperature for 18 hours, poured out into water and extracted with EtOAc. The organic layer was separated, dried (MgSO4), filtered, and the solvent was evaporated. The residue (0.1 g) was purified by column chromatography over kromasil 10 μm (eluent: CH2Cl2/CH3OH; 90/10). The pure fractions were collected and the solvent was evaporated, yielding 0.034 g (33%) of 4-(3-chlorophenyl)-6-[[4-(ethoxymethyl)phenyl]hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-1-methyl-2(1H)-quinolinone, as a white foam, MS (ESI) m/z:514, 516 (MH+).

reactant | (±)-6-[[4-(chloromethyl)phenyl]hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone | 0.0002 mol | ClCC1=CC=C(C=C1)C(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)Cl)(C1=CN=CN1C)O | C28H23Cl2N3O2
reactant | EtONa EtOH | 0.0005 mol | CC[O-].[Na+].CCO
reactant | water | O | H2O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 4-(3-chlorophenyl)-6-[[4-(ethoxymethyl)phenyl]hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-1-methyl-2(1H)-quinolinone | 0.034 g, 33% | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C1=CN=CN1C)(O)C1=CC=C(C=C1)COCC)C)=O | C30H28ClN3O3
